US07592358B2
43.1b. [5-(4-chlorophenyl)-2-trimethylsilanylethynylpyridin-3-yl]methylamine
The product was prepared analogously to Example 7.1c starting from [2-bromo-5-(4-chlorophenyl)pyridin-3-yl]methylamine and trimethylsilylacetylene. Yield: 0.23 g (91% of theoretical); C17H19ClN2Si (M=314.884); calc.: molpeak (M+H)+:315/317 (Cl); found: molpeak (M+H)+:315/317 (Cl).

reactant | [2-bromo-5-(4-chlorophenyl)pyridin-3-yl]methylamine | BrC1=NC=C(C=C1CN)C1=CC=C(C=C1)Cl | C12H10BrClN2
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
product | [5-(4-chlorophenyl)-2-trimethylsilanylethynylpyridin-3-yl]methylamine | ClC1=CC=C(C=C1)C=1C=C(C(=NC1)C#C[Si](C)(C)C)CN | C17H19ClN2Si
